US05607928
A mixture of 5-methoxy-1-tetralone (0.1 g; 0.56 mmol), pyridine-4-carboxaldehyde (91 μl ; 0.85 mmol), piperidine (16.8 μl; 0.17 mmol) and acetic acid (9.7μl ; 0.17 mmol) was heated at 130° C. for one hour. The mixture was taken up in CH2Cl2 and washed in water and in a saturated aqueous solution of NaCl. The organic phase was dried over MgSO4, filtered and evaporated. The residue was purified by flash chromatography on silica gel, eluting with CH2Cl2 /CH3CN (7/3) to give 5-methoxy-2-(4-pyridylmethylene)-1-tetralone (74 mg; 52%).

reactant | 5-methoxy-1-tetralone | 0.56 mmol, 0.1 g | COC1=C2CCCC(C2=CC=C1)=O | C11H12O2
reactant | pyridine-4-carboxaldehyde | 0.85 mmol, 91 μl | N1=CC=C(C=C1)C=O | C6H5NO
reactant | piperidine | 0.17 mmol, 16.8 μl | N1CCCCC1 | C5H11N
reactant | acetic acid | 0.17 mmol, 9.7μl | C(C)(=O)O | C2H4O2
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 5-methoxy-2-(4-pyridylmethylene)-1-tetralone | 74 mg, 52% | COC1=C2CCC(C(C2=CC=C1)=O)=CC1=CC=NC=C1 | C17H15NO2
